US09034855B2
tert-Butyl{2-[(3-amino-3-oxopropyl)amino]-2-oxo-1-[3-(trifluoromethyl)phenyl]ethyl}carbamate (racemate)
360 mg (1.88 mmol) of EDC were added to a mixture of 400 mg (1.25 mmol) of [(tert-butoxycarbonyl)amino][3-(trifluoromethyl)phenyl]acetic acid and 254 mg (1.88 mmol) of HOBt in 12 ml of DMF, and the mixture was stirred at RT for 30 min 234 mg (1.88 mmol) of beta-alaninamide hydrochloride and 436 μl (2.50 mmol) of N,N′-diisopropylethylamine were added, and the mixture was stirred for another 1 h. The mixture was diluted with ethyl acetate and washed four times with water. The organic phase was dried over sodium sulphate and freed from the solvent on a rotary evaporator. The residue was dried under high vacuum. This gave 446 mg (91% of theory) of the title compound.

reactant | EDC | 1.88 mmol, 360 mg
reactant | [(tert-butoxycarbonyl)amino][3-(trifluoromethyl)phenyl]acetic acid | 1.25 mmol, 400 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C14H16F3NO4
reactant | HOBt | 1.88 mmol, 254 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | beta-alaninamide hydrochloride | 1.88 mmol, 234 mg | Cl.NCCC(=O)N
reactant | N,N′-diisopropylethylamine | 2.50 mmol, 436 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl{2-[(3-amino-3-oxopropyl)amino]-2-oxo-1-[3-(trifluoromethyl)phenyl]ethyl}carbamate | C(C)(C)(C)OC(NC(C(=O)NCCC(=O)N)C1=CC(=CC=C1)C(F)(F)F)=O | C17H22F3N3O4
